US08809397B2
To a stirred solution of chromium trioxide (8.0 g, 76 mmol) in water (30 mL) cooled in an ice bath, was added carefully 96% sulfuric acid (6.9 mL, 120 mmol). While continuing to cool and stir the oxidant solution in an ice bath, a solution of (3-methylspiro[bicyclo[2.2.1]heptane-2.1′-cyclopropane]-3-yl)methanol (9.5 g; 57 mmol) in acetone (115 mL) was added over a 20 min period. After complete addition, the reaction mixture was stirred for 3 h while warming to ambient temperature. The reaction was then diluted with water (45 mL) and ethyl acetate (200 mL). Slowly, sodium bisulfite powder was added until the brown color dissipated and the aqueous layer became blue. The phases were then separated, and the aqueous layer was washed with ethyl acetate (2×100 mL). The organic layers were combined and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the filtrate was concentrated to yield a green oil. The oil as purified by silica gel (200 g) column chromatography, using a 0-50% ethyl acetate in hexanes gradient. Selected fractions were combined and concentrated to yield 6.0 g of 3-methylspiro[bicyclo[2.2.1]heptane-2,1′-cyclopropane]-3-carboxylic acid as a white solid (58%).

reactant | sulfuric acid | 120 mmol, 6.9 mL | S(O)(O)(=O)=O | H2O4S
reactant | (3-methylspiro[bicyclo[2.2.1]heptane-2.1′-cyclopropane]-3-yl)methanol | 57 mmol, 9.5 g | CC1(C2CCC(C2)C12CC2)CO | C11H18O
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | water | 30 mL | O | H2O
solvent | acetone | 115 mL | CC(=O)C | C3H6O
solvent | water | 45 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | chromium trioxide | 76 mmol, 8.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 3-methylspiro[bicyclo[2.2.1]heptane-2,1′-cyclopropane]-3-carboxylic acid | 6.0 g, 58% | CC1(C2CCC(C2)C12CC2)C(=O)O | C11H16O2
